US05869519
N-[(5-Fluoro-1-Methylindole-2-Carbonyl)Valinyl]-3-Amino-4-Hydroxy-5-Fluoropentanoic Acid, t-Butyl Ester
DMAP (257 mg, 2.08 mmol) and EDAC (427 mg, 2.23 mmol) were added as solids to a solution of 5-fluoro-1-methylindole-2-carboxylic acid (359 mg, 86 mmol in 3 mL of DMF), and the resultant reaction mixture was stirred for 10 minutes under a nitrogen atmosphere at 0° C. N-(Valinyl)-3-amino-4-hydroxy-5-fluoropentanoic acid, t-butyl ester (579 mg, 1.86 mmol) in DMF (3 mL) was added and the resulting solution was stirred for 1 hour under a nitrogen atmosphere at 0° C. and 4 hours at room temperature. The reaction mixture was partitioned between ethyl acetate and 5% KHSO4 solution and the aqueous solution was back-extracted with ethyl acetate. The combined ethyl acetate solutions were washed with 5% KHSO4 solution, saturated sodium bicarbonate solution (2×) and brine, dried over sodium sulfate, and concentrated to give the title product as a slightly yellow solid (0.827 mg). TLC: (methanol/methylene chloride, 1:9): Rf =0.52.

reactant | EDAC | 2.23 mmol, 427 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 5-fluoro-1-methylindole-2-carboxylic acid | 86 mmol, 3 mL, 359 mg | FC=1C=C2C=C(N(C2=CC1)C)C(=O)O | C10H8FNO2
reactant | N-(Valinyl)-3-amino-4-hydroxy-5-fluoropentanoic acid, t-butyl ester | 1.86 mmol, 579 mg | N[C@@H](C(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(CF)O | C14H27FN2O4
catalyst | DMAP | 2.08 mmol, 257 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N-[(5-Fluoro-1-Methylindole-2-Carbonyl)Valinyl]-3-Amino-4-Hydroxy-5-Fluoropentanoic Acid, t-Butyl Ester | FC=1C=C2C=C(N(C2=CC1)C)C(=O)N[C@@H](C(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(CF)O | C24H33F2N3O5
